US07834009B2
A solution of (1-aminomethyl)-cyclopentyl-acetic acid methyl ester hydrochloride (626 mg, 4.37 mmol) in anhydrous methanol (20 mL) was treated with 4-fluoro-benzaldehyde (0.46 mL, 4.37 mmol) and stirred at 25° C. under a nitrogen environment. After 10 min, glacial acetic acid (0.83 mL, 14.5 mmol) and sodium triacetoxyborohydride (2.3 g, 10.9 mmol) were added sequentially, and the resulting mixture was stirred at 25° C. for 18 h. The reaction was diluted with a saturated aqueous sodium bicarbonate solution (30 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (25 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to give 1-[(4-fluoro-benzylamino)-methyl]-cyclopropanecarboxylic acid ethyl ester (870 mg, 79%) as a colorless oil. LC-MS (ESI) calculated for C14H18FNO2: 251.1, found 252.1 [M+H+].

reactant | (1-aminomethyl)-cyclopentyl-acetic acid methyl ester hydrochloride | 4.37 mmol, 626 mg | Cl.COC(C(C1CCCC1)CN)=O
reactant | 4-fluoro-benzaldehyde | 4.37 mmol, 0.46 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | acetic acid | 14.5 mmol, 0.83 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 10.9 mmol, 2.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
product | 1-[(4-fluoro-benzylamino)-methyl]-cyclopropanecarboxylic acid ethyl ester | 870 mg, 79% | C(C)OC(=O)C1(CC1)CNCC1=CC=C(C=C1)F | C14H18FNO2
